US05284812
Dressler and coworkers dyed polypropylene yellow by treating polypropylene containing nickel with 2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole. The yellow color resulted from the formation of a nickel/2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole coordination compound (see Dressler, H. et al. U.S. Pat. No. 3,326,627).

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | nickel | [Ni] | Ni
reactant | 2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole | OC1=C(C=CC=C1)C=1SC=2N=C(SC2N1)C1=C(C=CC=C1)O | C16H10N2O2S2
product | nickel 2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole | [Ni].OC1=C(C=CC=C1)C=1SC=2N=C(SC2N1)C1=C(C=CC=C1)O | InChI=1S/C16H10N2O2S2.Ni/c19-11-7-3-1-5-9(11)13-17-15-16(21-13)18-14(22-15)10-6-2-4-8-12(10)20;/h1-8,19-20H;
